US07238716B2
To a mixture of 3-(5 methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethanol (0.859 g), methyl 2-(2-hydroxyphenyl)acetate (0.499 g), triphenylphosphine (0.944 g) and tetrahydrofuran (15 mL) was dropwise added a solution (40%, 1.74 g) of diethyl azodicarboxylate in toluene at room temperature, and the mixture was stirred for 15 hrs. The reaction mixture was concentrated and the residue was subjected to silica gel column chromatography to give methyl 2-[2-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethoxy]phenyl]acetate as an oil from a fraction eluted with ethyl acetate-hexane (1:2, v/v). This oil was dissolved in methanol-tetrahydrofuran (1:1, 20 mL) and a 1N aqueous sodium hydroxide solution (10 mL) was added. The mixture was stirred at room temperature for 15 hrs. The reaction mixture was poured into water, 1N hydrochloric acid (10 mL) was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give crystals of 2-[2-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazoly]methoxylphenyl]acetic acid. Recrystallization from ethanol-hexane gave colorless needle crystals (0.651 g, 52%). melting point: 152-153° C.

reactant | 3-(5 methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethanol | 0.859 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)CO | C15H14N2O4
reactant | methyl 2-(2-hydroxyphenyl)acetate | 0.499 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | triphenylphosphine | 0.944 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.74 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | methyl 2-[2-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethoxy]phenyl]acetate | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)COC1=C(C=CC=C1)CC(=O)OC | C24H22N2O6
